US08895544B2
5-Ethyl-2-fluoro-4-{3-[5-(4-fluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl]-1H-indazol-6-yl}-phenol
To a solution of 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt (Preparation 25, 50 mg, 80 μmol) in DMF (1 mL), was added 4-fluoro-benzenesulfonyl chloride (16 mg, 80 μmol), and DIPEA (56 μL, 320 μmol). The reaction mixture was stirred at room temperature for 4 hours. Saturated aqueous sodium hydrogen carbonate solution (5 mL) was added to the reaction mixture. The resulting solid was collected by filtration and washed with further saturated aqueous sodium hydrogen carbonate solution. The crude material was purified by reverse phase chromatography (Method C) to afford 7 mg of the title compound.

reactant | 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt | 80 μmol, 50 mg | Br.Br.Br.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1
reactant | 4-fluoro-benzenesulfonyl chloride | 80 μmol, 16 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | DIPEA | 320 μmol, 56 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | 5 mL | C(O)([O-])=O.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-Ethyl-2-fluoro-4-{3-[5-(4-fluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl]-1H-indazol-6-yl}-phenol | 7 mg | C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)S(=O)(=O)C2=CC=C(C=C2)F)N1 | C27H23F2N5O3S
